US06603046B1
1.76 g (10 mmol) of 4-allyloxyacetophenone and 1.66 g (10 mmol) of 2,5-dimethoxy-benzaldehyde were under an inert atmosphere (argon) dissolved in 10 ml of dry freshly distilled ethanol, and 100 mg of sodium hydroxide was added to the solution. The mixture was left under stirring for 2.5 h and filtered. The precipitate was recrystallized from methanol to give 2.50 g (83%) of 2,5-dimethoxy-4′-prop-2-enyloxychalcone, m.p. 86-87° C.

reactant | 4-allyloxyacetophenone | 10 mmol, 1.76 g | CC(=O)C1=CC=C(C=C1)OCC=C | C11H12O2
reactant | 2,5-dimethoxy-benzaldehyde | 10 mmol, 1.66 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
product | 2,5-dimethoxy-4′-prop-2-enyloxychalcone | 2.50 g, 83% | COC1=C(C=C(C=C1)OC)C=CC(=O)C1=CC=C(C=C1)OCC=C | C20H20O4
